US06002008
7-Benzyloxy-4-(4-chloro-2-fluoro-phenylamino)-6-methoxy-quinoline-3-carbonitrile
A mixture of 0.200 g of 7-benzyloxy-4chloro-6-methoxy-quinoline-3-carbonitrile 0.108 g of 4-chloro-2-fluoroaniline, 0.071 g of pyridine hydrochloride, and 3 ml of ethoxyethanol was stirred under nitrogen, at reflux temperature for 1 h. The mixture was cooled and added to 10 ml of water. To this mixture was added sodium carbonate until pH 9. The product was collected, washed with water, and dried to give 0. 150 g of 7-Benzyloxy-4-(4-chloro-2-fluoro-phenylamino)-6-methoxy-quinoline-3-carbonitrile hydrochloride as a solid, mp 241-243° C.; mass spectrum (electrospray, m/e): M+H 433.9.

reactant | 7-benzyloxy-4chloro-6-methoxy-quinoline-3-carbonitrile | 0.200 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=C(C=NC2=C1)C#N)Cl)OC | C18H13ClN2O2
reactant | 4-chloro-2-fluoroaniline | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
reactant | pyridine hydrochloride | 0.071 g | Cl.N1=CC=CC=C1
reactant | ethoxyethanol | 3 ml | C(C)OC(C)O | C4H10O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 7-Benzyloxy-4-(4-chloro-2-fluoro-phenylamino)-6-methoxy-quinoline-3-carbonitrile hydrochloride | 150 g | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=C(C=C(C=C1)Cl)F)OC
solvent | water | 10 ml | O | H2O
product | 7-Benzyloxy-4-(4-chloro-2-fluoro-phenylamino)-6-methoxy-quinoline-3-carbonitrile | C(C1=CC=CC=C1)OC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=C(C=C(C=C1)Cl)F)OC | C24H17ClFN3O2
